US07754737B2
Solid Teoc-OSu (1.35 g, 5.25 mmol) was added to a two-phase solution of (S)-tert-butyl 1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-3-(methylamino)propan-2-ylcarbamate (2.0 g, 5.0 mmol), K2CO3 (0.75 g, 9.0 mmol) in H2O (6 ml) and CH2Cl2 (12 mL). The mixture was vigorously stirred for 2 h at rt. The product was extracted with CH2Cl2. The combined organic layers were washed with sat'd aq NaHCO3 and brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography to provide (S)-tert-butyl 1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamate (1.9 g, 3.49 mmol, 70% yield). 1H NMR (400 MHz, CD3OD): 0.05 (s, 15H), 0.87 (s, 9H), 1.40 (s, 9H), 1.69 (s, 3H), 2.96 (m, 3H), 3.40-3.52 (m, 1H), 3.81-3.92 (m, 1H), 4.12-4.29 (m, 2H). MS (E/Z): 545 (M+H+)

reactant | Teoc-OSu | 5.25 mmol, 1.35 g | C(=O)(OCC[Si](C)(C)C)ON1C(=O)CCC1=O | C10H17NO5Si
reactant | (S)-tert-butyl 1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-3-(methylamino)propan-2-ylcarbamate | 5.0 mmol, 2.0 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)C[C@@H](CNC)NC(OC(C)(C)C)=O | C21H44N2O3Si
reactant | K2CO3 | 9.0 mmol, 0.75 g | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 6 ml | O | H2O
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamate | 3.49 mmol, 1.9 g, 70% yield | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(OC(C)(C)C)=O | C27H56N2O5Si2
